US05403852
67.5 g of 7-[4,5-bis(4-methoxyphenyl)-2-oxazolyl]-2-cyanoheptanoic acid are heated to 180° C. until the evolution of carbon dioxide has ceased (7 hours). After cooling, the residual oil is dissolved in 400 cm3 of ethyl ether. The ethereal solution is washed with 3 times 50 cm3 of saturated aqueous sodium bicarbonate solution and 100 cm3 of water, dried over magnesium sulphate and filtered, and the solvent is removed. The evaporation residue is chromatographed on a column 5.8 cm3 in diameter containing 360 g of silica gel (50 to 200μ). The column is eluted, collecting 250 cm3 fractions, with 3.5 liters of a diisopropyl ether/ethyl acetate (70:30 by volume) mixture. The fractions emerging at between 0.5 and 3.5 liters are concentrated to dryness. 52.3 g (75.9%) of 7-[4,5-bis(4-methoxyphenyl)-2-oxazolyl]heptanenitrile are thereby obtained in the form of an oil, which is used directly in the above reaction.

reactant | 7-[4,5-bis(4-methoxyphenyl)-2-oxazolyl]-2-cyanoheptanoic acid | 67.5 g | COC1=CC=C(C=C1)C=1N=C(OC1C1=CC=C(C=C1)OC)CCCCCC(C(=O)O)C#N | C25H26N2O5
reactant | carbon dioxide | C(=O)=O | CO2
solvent | ethyl ether | 400 cm3 | C(C)OCC | C4H10O
product | 7-[4,5-bis(4-methoxyphenyl)-2-oxazolyl]heptanenitrile | 52.3 g, 75.9% | COC1=CC=C(C=C1)C=1N=C(OC1C1=CC=C(C=C1)OC)CCCCCCC#N | C24H26N2O3
